US04977162
To 2-cyano-7-hydroxy-4-oxo-4H-1-benzopyran (11.87 mmoles) and 2-((3-chloromethylphenoxy)methyl)quinoline (11.87 mmoles) in dimethylsulfoxide (20 ml) is added powdered sodium hydroxide (0.475 g). After one week the reaction mixture is poured into ice water and the resulting precipitate collected and purified by HPLC to give 2-cyano-7-(3-(quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran which is used directly in the next step

reactant | 2-cyano-7-hydroxy-4-oxo-4H-1-benzopyran | 11.87 mmoles | C(#N)C=1OC2=C(C(C1)=O)C=CC(=C2)O | C10H5NO3
reactant | 2-((3-chloromethylphenoxy)methyl)quinoline | 11.87 mmoles | ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C17H14ClNO
reactant | sodium hydroxide | 0.475 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-cyano-7-(3-(quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran | C(#N)C=1OC2=C(C(C1)=O)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2 | C27H18N2O4
